US04940710
1-(4-Fluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-7-[3-(phenoxymethyl)-1-piperazinyl]-3-quinolinecarboxylic acid
A mixture of 0.6 g of 7-chloro-6-fluoro-1-(4-fluorophenyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 1.03 g of 3-(phenoxymethyl)piperazine and 5 ml of pyridine was reacted as described in Example 81, giving 295 mg of the desired product, mp 204°-207° C.

reactant | 7-chloro-6-fluoro-1-(4-fluorophenyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.6 g | ClC1=C(C=C2C(C(=CN(C2=C1)C1=CC=C(C=C1)F)C(=O)O)=O)F | C16H8ClF2NO3
reactant | 3-(phenoxymethyl)piperazine | 1.03 g | O(C1=CC=CC=C1)CC1CNCCN1 | C11H16N2O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-Fluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-7-[3-(phenoxymethyl)-1-piperazinyl]-3-quinolinecarboxylic acid | 295 mg | FC1=CC=C(C=C1)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)COC1=CC=CC=C1)F)=O)C(=O)O | C27H23F2N3O4
